US09145380B2
b) 1-Chloro-4-[(E)-2-ethoxysulfonylprop-1-enyl]benzene
n-Butyllithium (35.0 mL, 1.6M solution in hexanes) was added dropwise during 25 min to a solution of ethyl ethanesulfonate (6.9 g, 50 mmol) (Synth. Comm. 1985, 15, 1057) in THF (100 mL) at −78° C. The reaction mixture was stirred for 15 min then diethyl chlorophosphate (4.35 ml, 30 mmol) was added dropwise. The solution was stirred at −78° C. for 30 min, allowed to warm to 0° C. and then cooled to −78° C. again. 4-Chlorobenzaldehyde (4.2 g, 30 mmol) in THF (30 mL) was then added dropwise during 15 minutes and the resulting mixture was stirred for 1 h at −78° C. and then allowed to slowly reach RT. Water (10 mL) was added to the mixture and the mixture was concentrated in vacuo. The residue was extracted with diethyl ether and the combined organic extracts were washed with aqueous saturated sodium chloride, dried over magnesium sulfate, filtered and the solvent was evaporated in vacuo. Purification by column chromatography, using a gradient of 10% ethyl acetate/hexanes to 15% ethyl acetate/hexanes as eluent, afforded the title compound (4.5 g, 58%).

reactant | n-Butyllithium | 1.6M, 35.0 mL | C(CCC)[Li]
reactant | ethyl ethanesulfonate | 50 mmol, 6.9 g | C(C)S(=O)(=O)OCC | C4H10O3S
reactant | diethyl chlorophosphate | 30 mmol, 4.35 ml | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | 4-Chlorobenzaldehyde | 30 mmol, 4.2 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | Water | 10 mL | O | H2O
product | 1-Chloro-4-[(E)-2-ethoxysulfonylprop-1-enyl]benzene | 4.5 g, 58% | ClC1=CC=C(C=C1)\C=C(/C)\S(=O)(=O)OCC | C11H13ClO3S
